US05766610
Preparation of 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylthio)benzenemethanol
144 mg (3.8 mmol) of lithium aluminum hydride and 50 ml of THF were introduced into a three-necked flask and under a nitrogen stream. Next, a solution of 1.4 g (3.8 mmol) of ethyl 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylthio)benzoate in 25 ml of THF was introduced dropwise and the mixture was heated at reflux for 8 hours. The excess hydride was destroyed with a potassium sodium tartrate solution and the reaction medium was extracted with ethyl acetate. The organic phase was decanted off, dried over magnesium sulfate and evaporated.

reactant | lithium aluminum hydride | 3.8 mmol, 144 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylthio)benzoate | 3.8 mmol, 1.4 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)SC1=CC=C(C(=O)OCC)C=C1 | C24H30O2S
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylthio)benzenemethanol | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)SC1=CC=C(C=C1)CO | C22H28OS
